US04622403
Ethyl 3-(7-cyano-10,11-dihydrodibenzo[b,f]thiepin-4-yl)propanoate
Substituting ethyl 3-(7-cyano-10,11-dihydrodibenzo[b,f]thiepin-2-yl)-2-ethoxycarbonylpropanoate in the foregoing example with an equivalent amount of ethyl 3-(7-cyano-10,11-dihydrodibenzo[b,f]-thiepin-4-yl-2-ethoxycarbonylpropanoate provided the title compound in 97% yield. The compound was purified by short-path distillation at an oven temperature of 190°/0.05 Torr and then has m.p. 61°-62° C. Analysis for: C20H19NO2S Requires: C 71.19, H 5.68, N 4.15, S 9.50; Found C 71.13, H 5.80, N 4.09, S 9.42.

reactant | ethyl 3-(7-cyano-10,11-dihydrodibenzo[b,f]thiepin-2-yl)-2-ethoxycarbonylpropanoate | C(#N)C1=CC2=C(CCC3=C(S2)C=CC(=C3)CC(C(=O)OCC)C(=O)OCC)C=C1 | C23H23NO4S
reactant | 7-cyano-10,11-dihydrodibenzo[b,f]-thiepin-4-yl-2-ethoxycarbonylpropanoate | C(#N)C1=CC2=C(CCC3=C(S2)C(=CC=C3)C(C(=O)[O-])(C)C(=O)OCC)C=C1
product | Ethyl 3-(7-cyano-10,11-dihydrodibenzo[b,f]thiepin-4-yl)propanoate | 97% yield | C(#N)C1=CC2=C(CCC3=C(S2)C(=CC=C3)CCC(=O)OCC)C=C1 | C20H19NO2S
